US08476432B2
tert-Butyl-2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]acetate (100.0 g), methanol (700.0 mL), water (100.0 mL), and sodium hydroxide (30.7 g) were added to a reactor. The reaction mixture was stirred at 40˜50° C. for over 8 hours. The reaction was monitored with thin layer chromatography (ethyl acetate/n-hexane=1:1). The reaction mixture was cooled to 15˜20° C. and then the pH of the reaction mixture was adjusted to 4.0˜4.2 using 6N hydrochloric acid solution. The reaction mixture was concentrated under reduced pressure to remove the solvent. Ethyl acetate (800.0 mL) and sodium sulfate (100.0 g) were added to the resulting residue, which was then stirred for over 1 hour. The resulting suspension was filtered under reduced pressure. The filtrate was washed with ethyl acetate (200.0 mL) and then concentrated under reduced pressure to obtain [(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-acetic acid (80.0 g, yield 102%) as a gel form.

reactant | tert-Butyl-2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]acetate | 100.0 g | C(C)(C)(C)OC(C[C@@H]1OC(O[C@@H](C1)CO)(C)C)=O | C13H24O5
reactant | methanol | 700.0 mL | CO | CH4O
reactant | sodium hydroxide | 30.7 g | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | water | 100.0 mL | O | H2O
product | [(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-acetic acid | 80.0 g, yield 102% | OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)O | C9H16O5
